US06765008B1
2,5,6-Trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine-4-carbonitrile
A mixture of 4-chloro-2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]-pyrimidine (10.000 g, 31.90 mmol) and potassium cyanide (20.75 g, 319 mmol) in 100 ml dimethylsulfoxide was heated at 130° C. oil bath over weekend. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated to give 9.61 g (99%) of brown soild. The solid was recrystallized from i-propanol to give 6.34 g (65%) of the title compound as light golden crystals, mp 188-190° C. 1H NMR (CDCl3) δ 1.8(s, 6H), 2.07(s, 3H), 2.36(s, 3H), 2.50(s, 3H), 2.65(s, 3H), 7.00(s, 2H).

reactant | 4-chloro-2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]-pyrimidine | 31.90 mmol, 10.000 g | ClC=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C | C18H20ClN3
reactant | potassium cyanide | 319 mmol, 20.75 g | [C-]#N.[K+]
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2,5,6-Trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine-4-carbonitrile | 6.34 g, 65% | CC=1N=C(C2=C(N1)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C)C#N | C19H20N4
